US04697021
In a third run a mixture containing 3.5 g of 5-bromo-1,6-naphthyridin-2(1H)-one, 8.5 g of 4-(trifluoromethyl)-1H-imidazole, 8.7 g of potassium carbonate and 150 ml of dimethylformamide was refluxed with stirring for 29 hours and following a work-up procedure as described in the preceding paragraphs, 1.9 g of the crude product was obtained. The three fractions of product were combined, recrystallized three times from isopropyl alcohol and dried in an oven at 100° C. for two days to yield 1.95 g of 5-[(4-trifluoromethyl)-1H-imidazol-1-yl)]-1,6-naphthyridin-2(1H)-one, m.p. 216°-218° C.

reactant | 5-bromo-1,6-naphthyridin-2(1H)-one | 3.5 g | BrC1=C2C=CC(NC2=CC=N1)=O | C8H5BrN2O
reactant | 4-(trifluoromethyl)-1H-imidazole | 8.5 g | FC(C=1N=CNC1)(F)F | C4H3F3N2
reactant | potassium carbonate | 8.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1,6-naphthyridin-2(1H)-one | N1C(C=CC2=CN=CC=C12)=O | C8H6N2O
